US03932318
D. Triisopropylphosphine/Chloral 1/3 Product
To chloral (200 ml.) heated to 60°C. under nitrogen was added 11.5 g. of triisopropyldichlorovinyloxyphosphonium chloride (from C-3 above). The clear solution was held overnight under nitrogen at 60°C. and then poured into 400 ml. of dry ether. The oil which first separated became crystalline on standing at room temperature. The solid was collected under nitrogen and recrystallized by dissolution in 80 ml. of dichloromethane and dilution with 400 ml. of dry ether. The crystalline 3/1 chloral/triisopropylphosphine reaction product was collected and dried under dry nitrogen.

reactant | chloral | 200 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | triisopropyldichlorovinyloxyphosphonium chloride | [Cl-].C(C)(C)[P+](OC=C(Cl)Cl)(C(C)C)C(C)C
solvent | ether | CCOCC | C4H10O
product | Triisopropylphosphine Chloral | C(C)(C)P(C(C)C)C(C)C.O=CC(Cl)(Cl)Cl | InChI=1S/C9H21P.C2HCl3O/c1-7(2)10(8(3)4)9(5)6;3-2(4,5)1-6/h7-9H,1-6H3;1H
